US07700641B2
C. Synthesis of 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained (50% for two steps): MS (ES+) m/z 360 (M−17), 400 (M+23).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=CC(=C(C=C1F)C1C(N(C2=CC=CC=C12)CCCCC)=O)O | C19H19ClFNO2
product | 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=CC(=C(C=C1F)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O | C20H21ClFNO3
